US07687533B2
N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-1,1,1-trifluoro-N-(methylsulfonyl)methanesulfonamide
To a solution of N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}methanesulfonamide (73 mg, 0.18 mmol) in dichloromethane (4 ml), at 0° C., was added dropwise triethylamine (30 μl, 0.21 mmol), followed by trifluoromethanesulphonic anhydride (30 μl, 0.18 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 4 h. To the reaction mixture was added water and dichloromethane. The two layers were separated and the aqueous layer was extracted with dichloromethane (×3). The combined organic phases were then dried (MgSO4) and concentrated in vacuo. The crude product was dissolved in acetonitrile/water (7:3, 5 ml) and purified by automated preparative liquid chromatography (Gilson system, 150 mm×30 mm Phenomenex LUNA C18(2) 10 μm column) using an acetonitrile:water gradient [55:45 to 95:5]. The appropriate fractions were concentrated in vacuo to give the titled compound (50 mg).

reactant | N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}methanesulfonamide | 0.18 mmol, 73 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)NS(=O)(=O)C | C12H8Cl2F3N5O2S
reactant | triethylamine | 0.21 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphonic anhydride | 0.18 mmol, 30 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-1,1,1-trifluoro-N-(methylsulfonyl)methanesulfonamide | 50 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C | C13H7Cl2F6N5O4S2
